US08017611B2
Tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-(1-hydroxyethyl)pyrazol-1-yl]piperidine-1-carboxylate (0.17 g) dissolved in dichloromethane (1 ml) was treated with trifluoroacetic acid (2 ml) and stirred at room temperature for 2 hours. The resulting mixture was evaporated to dryness and the residual trifluoroacetic acid was removed by azeotropic distillation with toluene under vacuum to afford the crude product. The crude product was purified by flash chromatography on silica gel eluting with 0 to 10% methanolic ammonia (7 N) in dichloromethane. The solvent was evaporated to dryness and the yellow foam was triturated with acetonitrile and re-evaporated to dryness to afford 1-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-1-(4-piperidyl)pyrazol-3-yl]ethanol (0.110 g) as a solid. NMR Spectrum: (DMSOd6): 1.43 (d, 1.5H), 1.44 (d, 1.5H), 1.74-1.86 (m, 1H), 1.93-2.03 (m, 2H), 2.03-2.09 (m, 1H), 2.09-2.17 (m, 1H), 2.56-2.64 (m, 1H), 3.01-3.08 (m, 1H), 3.10-3.18 (m, 1H), 4.10-4.20 (m, 1H), 4.78-4.87 (m, 1H), 5.21 (d, 0.5H), 5.22 (d, 0.5H), 7.40-7.48 (m, 2H), 7.63 (bs, 2H), 7.77 (dd, 1H), 7.84 (dd, 1H), 8.04 (s, 0.5H), 8.11 (s, 0.5H), 7.51 (d, 0.5H), 7.52 (d, 0.5H), 7.56 (d, 0.5H), 7.57 (d, 0.5H); Mass spectrum: M+H+ 405.

reactant | Tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-(1-hydroxyethyl)pyrazol-1-yl]piperidine-1-carboxylate | 0.17 g | NC1=C(C=C(C=N1)C=1C(=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C(C)O)C=1OC2=C(N1)C=CC=C2 | C27H32N6O4
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 1-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-1-(4-piperidyl)pyrazol-3-yl]ethanol | 0.110 g | NC1=C(C=C(C=N1)C=1C(=NN(C1)C1CCNCC1)C(C)O)C=1OC2=C(N1)C=CC=C2 | C22H24N6O2
